US05112859
Octylcarbamic acid[1,1'-biphenyl]-2-yl ester
Triethylamine (3.3 mL, 23.7 mmol) is added dropwise under a nitrogen atmosphere to a solution of 2-phenylphenol (5.0 g, 29.3 mmol) and octyl isocyanate (5.5 g, 35.5 mmol) in 75 mL of methylene chloride. After the addition, the solution is stirred overnight at room temperature. The solution is washed with 1N HCl, dried (MgSO4) and the solvent removed under reduced pressure to give 10.09 g of a tan solid. Recrystallization from diisopropyl ether-hexane gives the title compound as a white crystalline solid (6.88 g, 72%), mp 59°-60° C.

reactant | Triethylamine | 23.7 mmol, 3.3 mL | C(C)N(CC)CC | C6H15N
reactant | 2-phenylphenol | 29.3 mmol, 5.0 g | C1(=CC=CC=C1)C1=C(C=CC=C1)O | C12H10O
reactant | octyl isocyanate | 35.5 mmol, 5.5 g | C(CCCCCCC)N=C=O | C9H17NO
solvent | methylene chloride | 75 mL | C(Cl)Cl | CH2Cl2
product | Octylcarbamic acid[1,1'-biphenyl]-2-yl ester | 10.09 g | C1(=C(C=CC=C1)OC(NCCCCCCCC)=O)C1=CC=CC=C1 | C21H27NO2
